US07479558B2
5-chloro-1-(2,6-difluorophenyl)-7-[4-(1-pyrrolidinyl)-1-piperidinyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one
To a solution of 5-chloro-1-(2,6-difluorophenyl)-7-(methylsulfinyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (250 mg, 0.70 mmol) in DCM (10 mL) were added 4-(1-pyrrolidinyl)piperidine (323 mg, 2.1 mmol) and N,N-diisopropylethylamine (0.3 mL, 1.7 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (253 mg, 81%). LC-MS m/z 449 (M+H)+

reactant | 5-chloro-1-(2,6-difluorophenyl)-7-(methylsulfinyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.70 mmol, 250 mg | ClC1=C2C(=NC(=N1)S(=O)C)N(C(NC2)=O)C2=C(C=CC=C2F)F | C13H9ClF2N4O2S
reactant | 4-(1-pyrrolidinyl)piperidine | 2.1 mmol, 323 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | N,N-diisopropylethylamine | 1.7 mmol, 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-1-(2,6-difluorophenyl)-7-[4-(1-pyrrolidinyl)-1-piperidinyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 253 mg, 81% | ClC1=C2C(=NC(=N1)N1CCC(CC1)N1CCCC1)N(C(NC2)=O)C2=C(C=CC=C2F)F | C21H23ClF2N6O
